US08802864B2
d) 4-[2-fluoro-4-(7-quinolinyl)phenyl]-5-[(1-propanoyl-3-azetidinyl)methyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
In a microwave vial purged with nitrogen, a mixture of 4-(4-bromo-2-fluorophenyl)-2-propanoyl-5-[(1-propanoyl-3-azetidinyl)methyl]-2,4-dihydro-3H-1,2,4-triazol-3-one (0.37 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.02 mmol) and 7-quinoline boronic acid (0.39 mmol) in 1,4-dioxane (2 mL) and 2M aq potassium carbonate (2 mL) was stirred at 100° C. in an oil bath for 1 h. The reaction was cooled to room temperature and the layers were separated. The aqueous layer was acidified to pH˜5.5 using 1N HCl solution and extracted with ethyl acetate (50 mL). The organic layers were combined, dried over magnesium sulphate, and concentrated in vacuo to give a tan solid. Trituration in dichloromethane followed by treatment with hot ethanol (5 mL), which was allowed to cool to room temperature, and then filtration afforded the desired product as a white solid, 93% pure. Subsequent purification of the filtrate and white solid by reverse phase HPLC (20-60% acetonitrile/water with 0.1% NH4OH) provided the title compound as a white solid (119 mg, 74%). MS(ES)+ m/e 432.1 [M+H]+.

reactant | 4-(4-bromo-2-fluorophenyl)-2-propanoyl-5-[(1-propanoyl-3-azetidinyl)methyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.37 mmol | BrC1=CC(=C(C=C1)N1C(N(N=C1CC1CN(C1)C(CC)=O)C(CC)=O)=O)F | C18H20BrFN4O3
reactant | 7-quinoline boronic acid | 0.39 mmol | N1=CC=CC2=CC=C(C=C12)B(O)O | C9H8BNO2
reactant | ethanol | 5 mL | C(C)O | C2H6O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | potassium carbonate | 2M, 2 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[2-fluoro-4-(7-quinolinyl)phenyl]-5-[(1-propanoyl-3-azetidinyl)methyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | FC1=C(C=CC(=C1)C1=CC=C2C=CC=NC2=C1)N1C(NN=C1CC1CN(C1)C(CC)=O)=O | C24H22FN5O2
